US07626042B2
(1) 1-[(Chloromethoxy)carbonyl]piperidine
Piperidine(1.06 g, 12.5 mmol) was added to a solution of chloroformic acid chloromethyl ester(645 mg, 5 mmol) in n-hexane (15 mL) at 0° C. under argon atmosphere, and the mixture was stirred at the same temperature for 30 minutes. The reaction mixture was diluted with ethyl acetate. After the ethyl acetate solution was washed successively with 1N hydrochloric acid(20 mL), water and brine, dried over anhydrous magnesium sulfate, the solvent was evaporated under reduced pressure to give the title compound(796 mg, 89.6%) as a colorless oil.

reactant | Piperidine | 12.5 mmol, 1.06 g | N1CCCCC1 | C5H11N
reactant | chloroformic acid chloromethyl ester | 5 mmol, 645 mg | ClCOC(=O)Cl | C2H2Cl2O2
solvent | n-hexane | 15 mL | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-[(Chloromethoxy)carbonyl]piperidine | 796 mg, 89.6% | ClCOC(=O)N1CCCCC1 | C7H12ClNO2
